US05212187
N-cyano-N'-[5-[N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]pentyl]-N"-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]guanidine
Preparation is effected analogously to Example 1, using 0.51 g (1.5 mmol) of N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,5-pentanediamine and the equimolar amount of N-cyano-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-O-phenyl-isourea as starting materials. Working up by chromatography analogously to Example 1 yields the purified title compound in the form of a viscous oil; MS (+FAB method): m/z (rel. int. [%])=626 ([M+H]+, 3), 154 ([m-NO2 benzylOH] 100); IR (KBr): 2162 cm- (C≡N). For further analysis, a portion of the compound is converted into the tartaric acid salt and recrystallised from isopropanol/petroleum ether; m.p.: 103° C. (isopropanol/petroleum ether).

reactant | N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,5-pentanediamine | 1.5 mmol, 0.51 g | FC1=CC=C(CN(C2=NC=CC=C2)CCN(CCCCCN)C)C=C1 | C20H29FN4
reactant | N-cyano-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-O-phenyl-isourea | C(#N)NC(OC1=CC=CC=C1)=NCCSCC=1N=C(SC1)NC(=N)N | C15H17N7OS2
product | N-cyano-N'-[5-[N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]pentyl]-N"-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]guanidine | C(#N)NC(=NCCSCC=1N=C(SC1)NC(=N)N)NCCCCCN(C)CCN(C1=NC=CC=C1)CC1=CC=C(C=C1)F | C29H40FN11S2
